US07781483B2
4-(1,1-dimethyl-2-propynyloxy)anisole
To a solution of 4-methoxyphenol (15.0 g, 121 mmol) in acetonitrile (75 mL), 1,8-diazabicyclo[5.4.0]undecene (23.9 g, 157 mmol) was added under ice cooling and the resulting mixture was stirred at 0° C. for 30 minutes (Solution 1). To a solution of 2-methyl-3-butyn-2-ol (11.7 g, 139 mmol) in acetonitrile (75 mL), 1,8-diazabicyclo[5.4.0]undecene (23.9 g, 157 mmol) was added under ice cooling, the resulting mixture was stirred at 0° C. for 30 minutes, then trifluoroacetic anhydride (25.4 g, 121 mmol) was added and the resulting mixture was stirred at 0° C. for 30 minutes (Solution 2). Copper (I) chloride (36 mg, 0.36 mmol) was added to Solution 1, and then Solution 2 was added dropwise thereto over 15 minutes. Upon the conclusion of dropwise addition, the temperature was raised to room temperature, and the mixture was stirred overnight. Upon the completion of the reaction, an aqueous solution of ammonium chloride was added to the reaction solution, and the solvent was distilled off under a reduced pressure. An aqueous solution of 1 mol/L hydrochloric acid was added to the residue, the resulting mixture was extracted with ethyl acetate, the organic phase was washed once with an aqueous solution of 1 mol/L hydrochloric acid, twice with an aqueous solution of saturated sodium hydrogen carbonate and once with saturated sodium chloride solution. Then, the organic phase was dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was directly used for the subsequent reaction.

reactant | 4-methoxyphenol | 121 mmol, 15.0 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1,8-diazabicyclo[5.4.0]undecene | 157 mmol, 23.9 g | N12C=CCCCC2NCCC1 | C9H16N2
reactant | 2-methyl-3-butyn-2-ol | 139 mmol, 11.7 g | CC(C)(C#C)O | C5H8O
reactant | 1,8-diazabicyclo[5.4.0]undecene | 157 mmol, 23.9 g | N12C=CCCCC2NCCC1 | C9H16N2
reactant | trifluoroacetic anhydride | 121 mmol, 25.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
catalyst | Copper (I) chloride | 0.36 mmol, 36 mg | [Cu]Cl
product | 4-(1,1-dimethyl-2-propynyloxy)anisole | CC(C#C)(OC1=CC=C(C=C1)OC)C | C12H14O2
